US07700637B2
4-Chlorosulfonylbenzoic acid (2.21 g, 10 mmol) is added to a solution of the methyl anthranilate (1.51 g, 10 mmol) in 20 mL of DCM at RT. The reaction is stirred 16 h and then filtered to give a white solid. The solid is dissolved in diluted aqueous potassium carbonate and extracted with EtOAc. The aqueous phase is added slowly to an excess (25 mL) of 1 N aqueous HCl. A white solid precipitates and is collected by filtration, washed with water, and dried under vacuum to give methyl 2-(4-carboxybenzene-sulfonylamino)-benzoate.

reactant | 4-Chlorosulfonylbenzoic acid | 10 mmol, 2.21 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | methyl anthranilate | 10 mmol, 1.51 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | methyl 2-(4-carboxybenzene-sulfonylamino)-benzoate | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)OC)C=CC=C1 | C15H13NO6S
